US08217043B2
c) 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-pyridin-2-ylmethyl-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the acylation condition used in Example 2 step f) from 4-chloro-1-[(pyridin-2-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester and chlorocarbonyl-acetic acid methyl ester (1.5 eq.). 1H NMR (CDCl3, δ in ppm): 8.5 (m, 1H), 7.68 (m, 1H), 7.39 (m, 1H), 721 (m, 1H), 6.85 (d, 1H, J=1.6 Hz), 6.80 (d, 1H, J=1.6 Hz), 5.48 (d, 1H, J=15.4 Hz), 4.46 (d, 1H, J=15.4 Hz), 3.79 (s, 3H), 3.69 (s, 3H), 3.19 (s, 2H).

reactant | 4-chloro-1-[(pyridin-2-ylmethyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)NCC1=NC=CC=C1 | C12H12ClN3O2
reactant | chlorocarbonyl-acetic acid methyl ester | 1.5 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-pyridin-2-ylmethyl-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N(CC1=NC=CC=C1)C(CC(=O)OC)=O | C16H16ClN3O5
